US05049485
Aurous bis(1,4,5-trimethyl-1,2,4-triazolium-3-thiolate) tetrafluoroborate (compound 1)
First the gold(I) starting compound, aurous bis(tetramethyl-thiourea) tetrafluoroborate, was made as follows. HAuCl4.3H2O (0.255 g) was dissolved in 5 mL water and added dropwise to tetramethylthiourea (0.327 g) which was partly dissolved in water. Dark orange and red precipitates formed initially, but after stirring at about 50° to 60° C. the precipitates dissolved and the solution became completely clear and colorless. 0.2 mL HBF4 solution (49% aqueous) was added. After cooling a few hours, white platelets of the product were filtered (84% yield). This intermediate gold(I) compound (0.228 g) was dissolved in 4 mL water by heating to about 60° C., and then added to a room temperature solution of 1,4,5-trimethyl-1,2,4-triazolium-3-thiolate (0.126 g). A white precipitate began to form, and was filtered after standing in the refrigerator a few hours. The product yield was 86%. The product could be recrystallized from hot water. Elemental analysis conformed to the formula for compound 1, and a single-crystal x-ray diffraction study confirmed the structure as a linear, two-coordinate complex with gold-sulfur bond lengths averaging 2.27 angstroms.

reactant | bis(tetramethyl-thiourea) tetrafluoroborate | F[B-](F)(F)F.CN(C(N(C)C)=S)C.CN(C(N(C)C)=S)C
reactant | tetramethylthiourea | 0.327 g | CN(C(N(C)C)=S)C | C5H12N2S
reactant | HBF4 | 0.2 mL | [H+].[B-](F)(F)(F)F
solvent | water | 5 mL | O | H2O
catalyst | gold(I) | [Au+]
product | bis(1,4,5-trimethyl-1,2,4-triazolium-3-thiolate) tetrafluoroborate | yield was 86% | F[B-](F)(F)F.C[N+]=1N=C(N(C1C)C)[S-].C[N+]=1N=C(N(C1C)C)[S-] | InChI=1S/2C5H9N3S.BF4/c2*1-4-7(2)5(9)6-8(4)3;2-1(3,4)5/h2*1-3H3;/q;;-1
